2159-10-23 05:42:00 Physician Resident Progress Note
Chief Complaint: Weakness
   24 Hour Events:
   FENA 0.15
   Got 750 IV fluids overnight
   Lactate down to 5.8
   Podiatry recs: Continue Abx
   -Recommend vascular consult
   +Blood culture  [**10-22**] GPCs in anaerobic bottle
   Influenza negative
   Hyponatremic: got NS, and started on fluid restriction
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-22**] 05:48 PM
   Ciprofloxacin - [**2159-10-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-23**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.8
   HR: 101 (86 - 113) bpm
   BP: 97/69(74) {82/50(57) - 105/77(83)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  2,418 mL
                                                                    457 mL
   PO:
                                                                  1,000 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,418 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    215 mL
   Urine:
                                                                    725 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,693 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   229 K/uL
   9.4 g/dL
   75 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   29 mg/dL
   95 mEq/L
   126 mEq/L
   32.6 %
   12.4 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
   WBC
   12.3
   12.4
   Hct
   31.8
   32.6
   Plt
   234
   229
   Cr
   1.5
   1.5
   TropT
   0.04
   0.06
   Glucose
   88
   115
   75
   Other labs: PT / PTT / INR:49.0/48.8/5.3, CK / CKMB /
   Troponin-T:82//0.06, ALT / AST:[**Telephone/Fax (1) 10922**], Alk Phos / T Bili:148/3.1,
   Lactic Acid:3.5 mmol/L, LDH:638 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   .
   # Sepsis:  Mr. [**Known lastname 10380**] presents with lactate of 11.9, Afib with RVR to
   140s and leukocytosis of 14.3 all consistent with sepsis.  He is also
   c/o of cough over the past week.  Patient has history of MRSA PNA
   requiring intubation in the past, CXR with ?LLL infiltrate.  will treat
   broadly at this time as there is no clear source.  Urinalysis
   negative.  Blood Cx, Urine Cx drawn and pending.  LFT elevated, U/S
   done in ED shows no cholecystitis or biliary ductal dilatation.  [**Month (only) 60**] be
   related to sepsis as lactate 11.9.  Other possibility is CHF as patient
   had similar presentation in [**Month (only) 1918**] which resonded to diuresis,
   however, CXR with minimal congestion and HR responded to fluids in the
   ED.
   -- Vanco/Cipro IV for ?PNA/?skin soft tissue infection of left foot
   -- gentle IVF fluid resuscitation given low EF
   -- Place CVL
   -- Intubate if needed if becomes hypoxic
   -- f/u Blood Cx
   -- Podiatry/wound consult, send wound cultures
   .
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.  Serum tox negative for acetaminohen, patient denies
   EtOH use.  Patient had similar presentation in [**7-/2159**] which was thought
   [**1-1**] shock liver/hypotension.  ?Amiodarone related.  Will cont to
   monitor.  INR also elevated so LFT abnormality could be more chronic
   than acute.
   -- trend LFTs/coags [**Hospital1 **] for now
   -- hold Amiodarone for now
   -- IVF as above
   .
   # ARF:  Likely related to sepsis, BUN/Cr less than 20, so more likely
   related to ATN. will treat with IVF and trend.
   -- [**Hospital1 **] Cr and Lytes today
   -- send Urine Lytes
   -- send Digoxin Level, dose PRN level
   -- IVF as above
   -- hold Lasix, Aldactone
   -- renally dose meds
   -- avoid nephrotoxic medication
   .
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - hold amiodarone given hepatitis
   - if patient goes into RVR can give BB or dilt IV PRN
   - hold anticoagulation as INR elevated
   - send digoxin level, dose upon level
   .
   # ICD firing:  per patient, ICD fired x 2.  EP consulted in ED and
   pacer interrogated, no Vtach noted, patient has been in afib with RVR
   over the weekend.
   - f/u EP consult
   - hold amiodarone as above
   .
   # Chronic CHF:  Patient with history of chronic CHF.
   - hold lasix, spironolactone for now given ARF, if patient becomes
   overloaded with fluid resucitation can restart
   - follow UOP
   - cont midodrine
   .
   # CAD s/p CABG:  No signs of MI at this time, CK flat and Trop 0.[**4-6**]
   be related to ARF.  Not on BB, ACE-I as outpatient.
   - trend CE
   - not on ASA at home, ruling out for MI but will hold ASA given INR
   elevation
   - hold Statin give elevated LFTs
   .
   # Depression: cont buproprion, citalopram
   .
   # Hypothyroidism: cont levothyroxine
   .
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: bowel regimen, no heparin given INR elevation
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-22**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-23 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Podiatry - continue abx, vascular consult
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-10-23**] 12:00 AM
   Vancomycin - [**2159-10-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-23**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 112 (86 - 113) bpm
   BP: 98/68(76) {71/50(57) - 105/77(83)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
                                                                  2,418 mL
                                                                    952 mL
   PO:
                                                                  1,000 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,418 mL
                                                                    752 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    335 mL
   Urine:
                                                                    725 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,693 mL
                                                                    617 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   229 K/uL
   75 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   29 mg/dL
   95 mEq/L
   126 mEq/L
   32.6 %
   12.4 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
   WBC
   12.3
   12.4
   Hct
   31.8
   32.6
   Plt
   234
   229
   Cr
   1.5
   1.5
   TropT
   0.04
   0.06
   Glucose
   88
   115
   75
   Other labs: PT / PTT / INR:49.0/48.8/5.3, CK / CKMB /
   Troponin-T:82//0.06, ALT / AST:[**Telephone/Fax (1) 10922**], Alk Phos / T Bili:148/3.1,
   Lactic Acid:3.5 mmol/L, LDH:638 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.4 mg/dL
   Fluid analysis / Other labs: - FeNa 7.15
   Imaging: - CXR - Increased pulmonary edema with bilateral patchy
   infiltrates and loss of diaphragmatic borders bilaterally
   Microbiology: - Blood cultures + GPC clusters 4/4 bottles
   - Foot swab + GPC pairs
   - Flu antigen negative
   Assessment and Plan
   a 62 y/o M with a h/o CAD s/p CABG x 5, CHF with EF of 20%, VT s/p
   PPM/ICD, and afib on coumadin who p/w 10 days of weakness and dry
   cough. Found to be tachycardic and hypotensive with elevated LFTs and
   lactate.
   # Hypotension/tachycardia/elevated lactate:  Likely [**1-1**] sepsis,
   although decompensated CHF could also be a possibility (less likely
   given CXR).  Possible sources include viral syndrome or PNA given
   cough, cellulitis/osteo of L foot.  Patient quite well appearing given
   significant elevation of lactate
 raises concern for mitochondrial
   defect that should be evaluated as an outpatient.
   - IVF to maintain MAP >65, cautious given low EF
   - F/U cultures
   - R/O flu
 droplet precautions/tamiflu until negative
   - Vanc/cipro x 10 days
   - Follow serial lactates
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  RUQ ultrasound
   unremarkable. Serum tox negative for acetaminohen, patient denies EtOH
   use.  Patient had similar presentation in [**7-/2159**] which was thought [**1-1**]
   shock liver/hypotension.  Could be drug related [**1-1**] amiodarine or
   statin.
   - Trend LFTs q12h
   - Hold Amiodarone and statin for now
   - IVF as above
   - Hepatology consulted in ED
   # Coagulopathy: Elevated INR, not on coumadin.  Likely [**1-1**] hepatic
   dysfunction.
   - Send DIC panel
   - Vit K
   - Trend INR
   # ARF:  Likely related to sepsis, BUN/Cr less than 20, c/w to ATN.
   - q12 creatinine and lytes
   - Send urine lytes
   - Hold Lasix, Aldactone
   # CHF: Does not appear to be volume overloaded at present.
   - Hold lasix for now
   - Gentle IVF given low EF
   # LE ulcer: Concern for tracking to bone.  Has vascular appointment
   scheduled as outpatient [**10-31**].
   - Podiatry consult
   - Wound consult
   - Abx as above
   # Afib with RVR:  ICD fired 2x over weekend in this setting.
   - EP consult
   # CAD s/p CABG:  No signs of MI at this time, CK flat and Trop 0.[**4-6**]
   be related to ARF.  Not on BB, ACE-I as outpatient.
   - Trend cardiac enzymes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-22**] 10:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2159-10-24 05:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2159-10-23**] 02:00 PM
   Patient was started on Lasix yesterday morning out of concern for fluid
   overload and worsening hyponatremia.   Patient did not respond well to
   Lasix 40mg and then 80mg IV x 1, +600cc at midnight.
   Blood pressures in high 80s in the afternoon and trended down in to
   high 70s overnight.  He was given two 250cc IVF boluses with good
   response, BP 102/69.
   ECHO:
   IMPRESSION: No valvular vegetations seen (reasonable-quality study). No
   intracardiac or significant transpulmonary shunting seen. Dilated left
   ventricle with severe global systolic dysfunction. Dilated right
   ventricle with moderate global systolic dysfunction. Moderate mitral
   regurgitation. Severe tricuspid regurgitation. At least moderate
   pulmonary hypertension.
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-23**] 08:00 AM
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-10-23**] 01:56 PM
   Dextrose 50% - [**2159-10-23**] 10:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-24**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 72 (71 - 116) bpm
   BP: 102/69(77) {71/52(56) - 110/75(81)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,550 mL
                                                                    785 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    163 mL
   Urine:
                                                                    905 mL
                                                                    163 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                    622 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   9.3 g/dL
   131 mg/dL
   1.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   36 mg/dL
   93 mEq/L
   126 mEq/L
   29.9 %
   13.3 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
                            [**2159-10-23**]  05:22 PM
                            [**2159-10-24**]  03:30 AM
   WBC
   12.3
   12.4
   13.3
   Hct
   31.8
   32.6
   29.9
   Plt
   [**Telephone/Fax (3) 10927**]
   Cr
   1.5
   1.5
   1.6
   1.8
   TropT
   0.04
   0.06
   0.06
   Glucose
   88
   115
   75
   61
   131
   Other labs: PT / PTT / INR:49.0/48.8/5.3, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10922**], Alk Phos / T Bili:153/4.1,
   Lactic Acid:6.3 mmol/L, LDH:610 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   # Sepsis/bacterimia:  Mr. [**Known lastname 10380**] presented with lactate of 11.9, Afib
   with RVR to 140s and leukocytosis of 14.3 all consistent with sepsis.
   Blood cultures now growing out gram + cocci, 4/4 bottles.  Will cont
   with Vanco, source is possibly left foot ulcerations.  Xray showed no
   signs of osteo.
   -- cont Vanco, check level
   -- d/c Cipro
   -- f/u Blood Cx
   -- f/u Podiatry consult
   -- f/u Vascular consult
   # Acute on Chronic CHF:  Patient with history of chronic CHF, now with
   worsening hyponatremia, s/p IVF and crackles in lungs which are
   consistent with fluid overload.
   - will discuss milrinone/ne vs dopamine with cards & renal
   - follow UOP
 goal -1L output today
   - cont midodrine
   # Hyponatremia: Hypervolemic. Will try lasix drip, if improvement
   limited, twill then use inoptropes as above.
   - q6h Na
   - consider tolvaptan
   - renal cosult
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.   Hepatology consulted, appreciate recs
   -- trend LFTs/coags daily
   -- restart Amiodarone
   -- hold statin for now
   -- f/u Hepatology consult
   # Coagluopathy: Liely a consequence of abx, poor po and liver injury
   - vit K 1 mg
   # ARF:  Likely related to sepsis, Cr slightly improved today
   -- q6h Cr and Lytes today
   -- inoptropes as above
   -- renal c/s
   -- avoid nephrotoxic medication
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - resume amiodarone
   - mteoprolol
   - hold anticoagulation as INR elevated
   # ICD firing:  per patient, ICD fired x 2.  EP consulted in ED and
   pacer interrogated, no Vtach noted, patient has been in afib with RVR
   over the weekend.
   - f/u EP consult
   - amiodarone as above
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: bowel regimen, no heparin given INR elevation
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-24 09:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Episodes of hypotension with altered mental status requiring IVF
   boluses
   - TTE - no vegetations seen; bubble study negative
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-23**] 08:00 AM
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-10-23**] 01:56 PM
   Dextrose 50% - [**2159-10-23**] 10:29 PM
   Other medications:
   Cipro, colace, dig, synthroid, wellbutrin, midodrine, vanco, celexa,
   metoprolol, amio
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-24**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 74 (71 - 116) bpm
   BP: 108/55(67) {73/52(56) - 110/75(81)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,550 mL
                                                                    868 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    868 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    333 mL
   Urine:
                                                                    905 mL
                                                                    333 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   222 K/uL
   131 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.8 mEq/L
   36 mg/dL
   94 mEq/L
   122 mEq/L
   29.9 %
   13.3 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
                            [**2159-10-23**]  05:22 PM
                            [**2159-10-24**]  03:30 AM
   WBC
   12.3
   12.4
   13.3
   Hct
   31.8
   32.6
   29.9
   Plt
   [**Telephone/Fax (3) 10927**]
   Cr
   1.5
   1.5
   1.6
   1.8
   TropT
   0.04
   0.06
   0.06
   Glucose
   88
   115
   75
   61
   131
   Other labs: PT / PTT / INR:71.7/56.1/8.4, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10931**], Alk Phos / T Bili:153/4.1,
   Lactic Acid:6.3 mmol/L, LDH:610 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR - Unchanged.
   Microbiology: No new micro data.
   Assessment and Plan
   a 62 y/o M with a h/o CAD s/p CABG x 5, CHF with EF of 20%, VT s/p
   PPM/ICD, and afib on coumadin who p/w 10 days of weakness and dry
   cough. Found to be tachycardic and hypotensive with elevated LFTs and
   lactate.
   # Bacteremia: Likely explains hypotension/tachycardia/elevated
   lactate/hypoglycemia:  Possible source is cellulitis/osteo of L foot.
   Patient quite well appearing given significant elevation of lactate
   raises concern for mitochondrial defect or glycogen storage disease
   that should be evaluated as an outpatient.  Adequately volume
   resuscitated and now in mild CHF.
   - F/U cultures
   - Vanc x 10 days
   - Follow serial lactates
 trended back up today
   - Vascular [**Doctor First Name 458**] eval ([**Doctor Last Name **]) for revasc or amputation to control
   septic focus in patient with no physiologic reserve
   # CHF: Mild volume overload.
   - Rate control
   - Continue midodrine
   - Discuss milrinone/neo for diuresis
   - Lasix gtt in meantime
   # Hyponatremia: Likely related to volume overload from CHF.
   - Diuresis
   - q4-6h Na+
   - Free water restrict; change carriers of all meds possible
   - Consider hypertonic saline if continues to fall
   # Transaminitis:  Likely related to sepsis/shock with additional
   congestive hepatopathy. Denies any abdominal pain. RUQ ultrasound
   unremarkable. Serum tox negative for acetaminohen, patient denies EtOH
   use.  Patient had similar presentation in [**7-/2159**] which was thought [**1-1**]
   shock liver/hypotension.  Could be drug related [**1-1**] amiodarine or
   statin. Also with evidence of coagulopathy/synthetic dysfunction.
   - Hepatology consult
 believe c/w shock liver
   - Restart amiodarone given refractory VT / shocks in the recent past
   - F/U hep serologies
   - Vit K
   - Trend INR
   # ARF:  Likely related to sepsis, but BUN/Cr less than 20 also
   indicates possible ATN. Slowly improving.
   - q12 creatinine and lytes
   # LE ulcer:
   - Vascular consult
 may need amputation
   - Abx as above
   # Afib with RVR:  ICD fired 2x over weekend in this setting.
   - Improved rate control with BB and amio
   - Appreciate EP input
 no plans for VT ablation
   # CAD s/p CABG:  No signs of MI at this time, CK flat and Trop 0.[**4-6**]
   be related to ARF.  Not on BB, ACE-I as outpatient.
   - Will discuss aspirin/ACE with cards
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:  Picc line ordered today
   22 Gauge - [**2159-10-24**] 04:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2159-10-25 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CVL inserted
   - started on dopamine and urine output increased to approx 100 cc/hr;
   tapered off and then lasix gtt was started and now continues with UOP
   at about 60cc/hr.
   - Na starting to improve; renal following along
   - vascular consulted
   - wound growing MSSA
 MULTI LUMEN - START [**2159-10-24**] 07:02 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Vancomycin - [**2159-10-24**] 08:00 AM
   Infusions:
   Dopamine - 3.5 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2159-10-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 106 (70 - 113) bpm
   BP: 107/72(80) {75/49(56) - 113/93(98)} mmHg
   RR: 19 (8 - 21) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  2,557 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                  1,636 mL
                                                                    109 mL
   Blood products:
                                                                    871 mL
   Total out:
                                                                    913 mL
                                                                    440 mL
   Urine:
                                                                    913 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,644 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), SEM III/VI
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: bibasilar crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   196 K/uL
   9.7 g/dL
   62 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   42 mg/dL
   93 mEq/L
   128 mEq/L
   32.1 %
   13.2 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
                            [**2159-10-23**]  05:22 PM
                            [**2159-10-24**]  03:30 AM
                            [**2159-10-24**]  09:56 AM
                            [**2159-10-24**]  03:39 PM
                            [**2159-10-25**]  01:21 AM
                            [**2159-10-25**]  04:03 AM
   WBC
   12.3
   12.4
   13.3
   13.2
   Hct
   31.8
   32.6
   29.9
   32.1
   Plt
   [**Telephone/Fax (3) 10939**]96
   Cr
   1.5
   1.5
   1.6
   1.8
   1.7
   1.7
   1.7
   1.7
   TropT
   0.04
   0.06
   0.06
   Glucose
   88
   115
   75
   61
   131
   62
   Other labs: PT / PTT / INR:44.2/56.3/4.7, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10940**], Alk Phos / T Bili:162/5.7,
   Lactic Acid:5.7 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   # Sepsis/bacterimia:  Mr. [**Known lastname 10380**] presented with lactate of 11.9, Afib
   with RVR to 140s and leukocytosis of 14.3 all consistent with sepsis.
   Blood cultures now growing out gram + cocci, 4/4 bottles but have since
   cleared.  Will cont with Vanco, source is possibly left foot
   ulcerations.  Xray showed no signs of osteo.  Growing MSSA.
   -- cont Vanco, check level; has pcn allergy and would just like to
   continue vanco despite MSSA growing out
   -- f/u Blood Cx
   -- f/u Podiatry consult
 ABIs pending
   -- f/u Vascular consult
   # Acute on Chronic CHF:  Patient with history of chronic CHF, s/p IVF
   and crackles in lungs which are consistent with fluid overload.
   - had CVL placed and dopamine and lasix gtt started overnight; UOP has
   increased with this change
   - follow UOP
 goal -1L output today
   - cont midodrine
   # Hyponatremia: Hypervolemic. Improving from 122 to 128 with diuresis.
   - q6h Na
   - consider tolvaptan
   - renal cosult
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.   Hepatology consulted, appreciate recs
   -- trend LFTs/coags daily
   -- restart Amiodarone
   -- hold statin for now
   -- plan for liver US tomorrow to rule out portal thrombosis
   # Coagluopathy: Likely a consequence of abx, poor po and liver injury;
   was not on anticoagulation at home
   - vit K 1 mg again today
   # ARF:  Likely related to sepsis, Cr stable
   -- q6h Cr and Lytes today
   -- inoptropes as above
   -- renal c/s
   -- avoid nephrotoxic medication
   .
   # Altered mental status: unclear etiology; likely related to metabolic
   encephalopathy, vs. hepatic encephalopathy, vs. poor perfusion, vs.
   hypoglycemia vs. ICU delirium.
   - monitor for focal neurological deficits; none now
   - treat medical problems as above
   .
   # Hypoglycemia: likely from poor PO intake and liver failure
   - D50 boluses PRN; trying to avoid too much fluid so no gtt
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - resume amiodarone
   - metoprolol if tolerated
   - hold anticoagulation as INR elevated
   # ICD firing:  per patient, ICD fired x 2.  EP consulted in ED and
   pacer interrogated, no Vtach noted, patient has been in afib with RVR
   over the weekend.
   - f/u EP consult; will talk with EP about if pacer is catching HRs
   above 100; looks like they are
   - amiodarone as above
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: bowel regimen, no heparin given INR elevation
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-25 10:32:00 Physician Attending Progress Note
Chief Complaint: Shock
   HPI:
   62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, who presents
   from home with weakness x 10 days found to be hypotensive, tachycardic,
   with lactate of 11, glucose of 20, and transaminitis.  Felt to be
   septic, c/b CHF.
   24 Hour Events:
 MULTI LUMEN - START [**2159-10-24**] 07:02 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Vancomycin - [**2159-10-24**] 08:00 AM
   Infusions:
   Dopamine - 3.5 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2159-10-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-25**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 105 (70 - 113) bpm
   BP: 108/63(73) {75/49(56) - 113/93(98)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
             Total In:
                                                                  2,557 mL
                                                                    210 mL
   PO:
             TF:
   IVF:
                                                                  1,636 mL
                                                                    160 mL
   Blood products:
                                                                    871 mL
   Total out:
                                                                    913 mL
                                                                    715 mL
   Urine:
                                                                    913 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,644 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General: Altered, A&O x1.  States today is
BIsmish
   HEENT: PERRL. OP clear.
   CV: Irregularly, irregular, IV/VI SEM
   Lungs: b/l anterior rhonchi, crackles at the bases
   Abd: Soft, NT, ND.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   9.7 g/dL
   196 K/uL
   62 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.6 mEq/L
   42 mg/dL
   93 mEq/L
   128 mEq/L
   32.1 %
   13.2 K/uL
        [image002.jpg]
                            [**2159-10-22**]  10:46 AM
                            [**2159-10-22**]  02:53 PM
                            [**2159-10-23**]  03:59 AM
                            [**2159-10-23**]  05:22 PM
                            [**2159-10-24**]  03:30 AM
                            [**2159-10-24**]  09:56 AM
                            [**2159-10-24**]  03:39 PM
                            [**2159-10-25**]  01:21 AM
                            [**2159-10-25**]  04:03 AM
   WBC
   12.3
   12.4
   13.3
   13.2
   Hct
   31.8
   32.6
   29.9
   32.1
   Plt
   [**Telephone/Fax (3) 10939**]96
   Cr
   1.5
   1.5
   1.6
   1.8
   1.7
   1.7
   1.7
   1.7
   TropT
   0.04
   0.06
   0.06
   Glucose
   88
   115
   75
   61
   131
   62
   Other labs: PT / PTT / INR:44.2/56.3/4.7, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10940**], Alk Phos / T Bili:162/5.7,
   Lactic Acid:5.7 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   1. Shock
 likely secondary to resolving sepsis, and CHF (EF 20%, 2+MR,
   4+TR), as below.  Sepsis has generally improved, however primary issues
   seems secondary to pump failure.
   2. Sepsis-  [**1-1**] MSSA, high grade bacteremia.  Likely source is from
   foot wound.  Now improved.  Continued on vancomycin.
   3. CHF
 LVEF20%.  Now hemodynamically improved on dopamine.  Sodium
   trending up, lactate trending down.  Will plan to continue dopamine and
   lasix drip to attempt to restore appropriate starling relationsip.
   Will shoot for 1.5L neg o/n (on stable dopamine dose).
   4. Hyponatremia
 cont to f/u sodium closely
   5. Transaminitis
 LFTs stable.  r/o portal vv thrombosis.
   6. Lactate- partially related to production.  ? metabolism
   7. Altered mental status- TSH ok on [**10-22**], likely ICU delirium  and
   resolving hyponatremia.
   Other issues per Dr. [**First Name (STitle) 1162**]
s note.
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill.

2159-10-26 07:48:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, who presents
   from home with weakness x 10 days found presented with hypotensiion,
   tachycardia, with lactate of 11, glucose of 20, and transaminitis.
   Felt to be septic, c/b CHF
   24 Hour Events:
 INVASIVE VENTILATION - START [**2159-10-26**] 01:52 AM
   BP dropped on lasix gtt/dopamine.  HR increased to 120 initially. BP
   dropped to 70/40, lasix gtt stopped, rec
d NS bolus, no improvement.
   Levophed added.  Dopamine increased to 5.  Became hypoxic 70% on NRB,
   intubated.
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Vancomycin - [**2159-10-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2159-10-26**] 01:20 AM
   Dextrose 50% - [**2159-10-26**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-26**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 108 (95 - 110) bpm
   BP: 99/76(77) {78/52(59) - 122/81(91)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,179 mL
                                                                  1,045 mL
   PO:
                                                                    150 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    929 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                     75 mL
   Urine:
                                                                  1,100 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.28/39/124/18/-7
   Ve: 9.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: Altered, A&O x1.
   HEENT: PERRL. OP clear.
   CV: Irregularly, irregular, IV/VI SEM
   Lungs: b/l anterior rhonchi, crackles at the bases
   Abd: Soft, NT, ND.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   9.9 g/dL
   163 K/uL
   76 mg/dL
   1.9 mg/dL
   18 mEq/L
   5.0 mEq/L
   45 mg/dL
   93 mEq/L
   129 mEq/L
   33.7 %
   15.0 K/uL
        [image002.jpg]
                            [**2159-10-24**]  09:56 AM
                            [**2159-10-24**]  03:39 PM
                            [**2159-10-25**]  01:21 AM
                            [**2159-10-25**]  04:03 AM
                            [**2159-10-25**]  11:45 AM
                            [**2159-10-25**]  10:39 PM
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
   WBC
   13.2
   15.0
   Hct
   32.1
   33.7
   Plt
   196
   163
   Cr
   1.7
   1.7
   1.7
   1.7
   1.7
   1.7
   1.9
   TCO2
   15
   18
   19
   Glucose
   62
   73
   76
   Other labs: PT / PTT / INR:67.3/56.6/7.8, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10940**], Alk Phos / T Bili:162/5.7,
   Lactic Acid:8.9 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, a/w likely
   septic shock c/b CHF.  Unclear etiology of decompensation last night.
   HR increased in the setting of hypothermia, possibly over the threshold
   for BiV pacing and reduced filling.
   1. Shock
 cannot r/o recrudescent sepsis given that wound has not been
   definitively treated.  CXR also shows inc density and question whether
   there may be LLL consolidation/collapse.  With those caveats, his CHF
   and severe valvular disease are clearly complicating and likely
   represent a primary etiology for shock.
   -d/w cardiology re: placement of PA line vs other therapies.
   -expand empiric antibiotic coverage, aztreonam vs. meropenem
   2. Respiratory failure
 likely [**1-1**] worsening CHF in the setting of
   cardiogenic failure.  Maintained on 50% FiO2, P/F ratio is 248 so no
   indication for low tidal vol vent.
   3. Sepsis-  [**1-1**] MSSA, high grade bacteremia.  Likely source is from
   foot wound.  Continued on vancomycin/cipro.
   4. CHF
 LVEF20%.
   5. Thrombocytopenia
   6. AG acidosis-
   5. Hyponatremia
 cont to f/u sodium closely
   6. Transaminitis
 LFTs stable.  r/o portal vv thrombosis.
   7. Lactate- partially related to production. Type I and Type II?
   .
   Other issues per Dr. [**First Name (STitle) 1162**]
s note.
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill.
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname 10380**] with Dr. [**Last Name (STitle) 10949**], whose note above
   reflects my input.  Underwent trial of neosynephrine today, without
   good UOP response
 back to dopa.  Multiple discussions with
   cardiology.  Other events and data as per Dr. [**Last Name (STitle) 10949**].
   Shock
 likely mixed cardiogenic.  Given CXR, will d/w ID about
   potentially broadening coverage.  Will place arterial line and assess
   pulse contour for possible CO measurement, then consider dobutamine
   trial.  PA line might be reasonable, but likely best placed under
   fluoro and not completely clear that TD or Fick CO would be reliable in
   this patient.  Can also consider increasing PEEP and assessing
   hemodynamic response.
   Respiratory failure
 leave on support during shock state
   MRSA bacteremia
 source is likely foot; continue vanco; ID following.
   Met with patient
s wife, along with Dr. [**Last Name (STitle) 10949**].  She notes that
   although he wanted
extraordinary measures
 that she also feels he is
   getting them presently and wonders how long this can go on.  She is
   also clear that in the event of arrest she would not want him to
   undergo chest compressions, which seems entirely reasonable.
   Therefore, no CPR in the event of pulseless arrest (ICD already in
   place).
   Other issues as per Dr. [**Last Name (STitle) 10949**].  Critically ill: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2159-10-26**] 20:32 ------

2159-10-26 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had worsening tachycardia and then became hypotensive and hypoxic
   overnight last night.  Required intubation and levophed to correct
   pressures.
   Oxygenating well after  intubation.
   BP stable, but unable to place a-line.  On small amount of levophed and
   still on dopamine.  Restarted lasix gtt this morning.
 INVASIVE VENTILATION - START [**2159-10-26**] 01:52 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2159-10-24**] 12:00 AM
   Vancomycin - [**2159-10-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2159-10-26**] 01:20 AM
   Dextrose 50% - [**2159-10-26**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 108 (95 - 110) bpm
   BP: 99/76(77) {78/52(59) - 122/81(91)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,179 mL
                                                                  1,045 mL
   PO:
                                                                    150 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    929 mL
                                                                    845 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                     75 mL
   Urine:
                                                                  1,100 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.28/39/124/18/-7
   Ve: 9.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   9.9 g/dL
   76 mg/dL
   1.9 mg/dL
   18 mEq/L
   5.0 mEq/L
   45 mg/dL
   93 mEq/L
   129 mEq/L
   33.7 %
   15.0 K/uL
        [image002.jpg]
                            [**2159-10-24**]  09:56 AM
                            [**2159-10-24**]  03:39 PM
                            [**2159-10-25**]  01:21 AM
                            [**2159-10-25**]  04:03 AM
                            [**2159-10-25**]  11:45 AM
                            [**2159-10-25**]  10:39 PM
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
   WBC
   13.2
   15.0
   Hct
   32.1
   33.7
   Plt
   196
   163
   Cr
   1.7
   1.7
   1.7
   1.7
   1.7
   1.7
   1.9
   TCO2
   15
   18
   19
   Glucose
   62
   73
   76
   Other labs: PT / PTT / INR:67.3/56.6/7.8, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10940**], Alk Phos / T Bili:162/5.7,
   Lactic Acid:8.9 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   # Acute on Chronic CHF:  Patient with history of chronic CHF, could not
   be easily diuresed yesterday and was on dopamine and lasix gtt but
   could not tolerate.  Then was intubated and placed on second pressor
   (levophed).
   - switch levophed to neo
   - consider swan catheter
   - consider dobutamine
   - stop midodrine
   - d/c metoprolol
   - consult cards with Dr. [**Last Name (STitle) 10946**]
   - EP increased BiV PPM rate to 120 to try and increase CO; VT set at
   146
   - patient has severe heart failure and likely decompenstated from
   worsening R heart failure, possibly in the setting of extra fluids.  Is
   now hemodynamically stable on above pressors, but will try to wean as
   tolerated
   # Sepsis/bacterimia:  Mr. [**Known lastname 10380**] presented with lactate of 11.9, Afib
   with RVR to 140s and leukocytosis of 14.3 all consistent with sepsis.
   Blood cultures now growing out gram + cocci, 4/4 bottles but have since
   cleared.  Will cont with Vanco, source is possibly left foot
   ulcerations.  Xray showed no signs of osteo.  Growing MSSA.
   - cont Vanco, check level; has pcn allergy and would just like to
   continue vanco despite MSSA growing out
   - consider other sources of sepsis as patient was hypothermic when he
   became hypoxic; xray may show retrocardiac opacity vs. collapsed lung;
   could broaden abx to HAP if worsens respiratory status
   -- f/u Podiatry consult
 ABIs pending
   -- f/u Vascular consult
   # Hyponatremia: Hypervolemic. Improving from 122 to 129, stable over
   last day since diuresis has leveled off
   - q6h Na
   - consider tolvaptan
   - renal cosult
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.   Hepatology consulted, appreciate recs
   -- trend LFTs/coags daily
   -- restart Amiodarone
   -- hold statin for now
   -- plan for liver US tomorrow to rule out portal thrombosis
   - start lactulose
   # Coagluopathy: Likely a consequence of abx, poor po and liver injury;
   was not on anticoagulation at home
   - vit K 3mg
   - probably not hypoxic/hypotensive from clot due to his high INR
   # ARF:  Likely related to sepsis, Cr stable
   -- inoptropes as above; stable despite worsening heart failure
   -- renal c/s
   -- avoid nephrotoxic medication
   .
   # Altered mental status: unclear etiology; likely related to metabolic
   encephalopathy, vs. hepatic encephalopathy, vs. poor perfusion, vs.
   hypoglycemia vs. ICU delirium.
   - monitor for focal neurological deficits; none now
   - treat medical problems as above
   - lactulose
   - now sedated and intubated so hard to address
   .
   # Hypoglycemia: likely from poor PO intake and liver failure
   - now OG tube so tube feeds
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - resume amiodarone
   - hold anticoagulation as INR elevated
   # ICD firing:  per patient, ICD fired x 2.  EP consulted in ED and
   pacer interrogated, no Vtach noted, patient has been in afib with RVR
   over the weekend.
   - f/u EP consult; will talk with EP about if pacer is catching HRs
   above 100; looks like they are
   - amiodarone as above
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: bowel regimen, no heparin given INR elevation
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-27 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cards consulted: felt hypotension [**1-1**] decreased filling time.
   Ionotrops stopped leading to worsened hypotension, so restarted
   dopamine.  Suggested increasing dig dose to .125 daily and consider
   swan.
   EP adjusted pacer settings: will now pace up to HR 120 and shock above
   146.
   A-line places
   Started tibe feeds, patient remained dependent on D50@15 cc/hr to
   prevent hypoglycemia
   Vitamin K repeated for INR
   Started Meropenem given persistant hypotension to cover possiblity of
   septic shock, no clear source.
   still needs ICU consent
   AM Cortisol 26
   Patient made DNR, family aware of poor prognosis
   Liver US: Echogenic liver with patent, congested vasculature
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-26**] 08:00 AM
   Meropenem - [**2159-10-27**] 05:08 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 3 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (76 - 112) bpm
   BP: 85/58(69) {75/56(63) - 87/64(73)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 72 Inch
    CVP: 16 (16 - 44)mmHg
   Total In:
                                                                  4,105 mL
                                                                    846 mL
   PO:
                                                                    100 mL
   TF:
                                                                    106 mL
                                                                    162 mL
   IVF:
                                                                  3,799 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    400 mL
   Urine:
                                                                    645 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,460 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 197
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/34/184/24/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 368
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   9.9 g/dL
   121 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   45 mg/dL
   96 mEq/L
   129 mEq/L
   32.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2159-10-25**]  04:03 AM
                            [**2159-10-25**]  11:45 AM
                            [**2159-10-25**]  10:39 PM
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
   WBC
   13.2
   15.0
   13.8
   Hct
   32.1
   33.7
   32.8
   Plt
   196
   163
   123
   Cr
   1.7
   1.7
   1.7
   1.9
   1.9
   TCO2
   15
   18
   19
   24
   26
   Glucose
   62
   73
   76
   121
   Other labs: PT / PTT / INR:51.0/57.7/5.6, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10952**], Alk Phos / T Bili:157/9.8,
   Lactic Acid:2.7 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: Liver Ultrasound: 1. Patent abdominal vasculature with
   prominent phasicity, likely secondary to congestion due to heart
   failure.
   2. Increased ascites.
   3. Gallstones without evidence of cholecystitis. Stable gallbladder
   wall
   thickening could relate to passive congestion.
   4. Echogenic liver consistent with fatty infiltration. Other liver
   disease,
   including fibrosis and cirrhosis, cannot be excluded
   Microbiology: No new growth
   Assessment and Plan
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   # Cardiogenic shock: Failed
   - patient has severe heart failure and likely decompenstated from
   worsening R heart failure, possibly in the setting of extra fluids.  Is
   now hemodynamically stable on above pressors, but will try to wean as
   tolerated
   # Sepsis/bacterimia:  Mr. [**Known lastname 10380**] presented with lactate of 11.9, Afib
   with RVR to 140s and leukocytosis of 14.3 all consistent with sepsis.
   Blood cultures now growing out gram + cocci, 4/4 bottles but have since
   cleared.  Will cont with Vanco, source is possibly left foot
   ulcerations.  Xray showed no signs of osteo.  Growing MSSA.
   - cont Vanco, check level; has pcn allergy and would just like to
   continue vanco despite MSSA growing out
   - consider other sources of sepsis as patient was hypothermic when he
   became hypoxic; xray may show retrocardiac opacity vs. collapsed lung;
   could broaden abx to HAP if worsens respiratory status
   -- f/u Podiatry consult
 ABIs pending
   -- f/u Vascular consult
   # Hyponatremia: Hypervolemic. Improving from 122 to 129, stable over
   last day since diuresis has leveled off
   - q6h Na
   - consider tolvaptan
   - renal cosult
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.   Hepatology consulted, appreciate recs
   -- trend LFTs/coags daily
   -- restart Amiodarone
   -- hold statin for now
   -- plan for liver US tomorrow to rule out portal thrombosis
   - start lactulose
   # Coagluopathy: Likely a consequence of abx, poor po and liver injury;
   was not on anticoagulation at home
   - vit K 3mg
   - probably not hypoxic/hypotensive from clot due to his high INR
   # ARF:  Likely related to sepsis, Cr stable
   -- inoptropes as above; stable despite worsening heart failure
   -- renal c/s
   -- avoid nephrotoxic medication
   .
   # Altered mental status: unclear etiology; likely related to metabolic
   encephalopathy, vs. hepatic encephalopathy, vs. poor perfusion, vs.
   hypoglycemia vs. ICU delirium.
   - monitor for focal neurological deficits; none now
   - treat medical problems as above
   - lactulose
   - now sedated and intubated so hard to address
   .
   # Hypoglycemia: likely from poor PO intake and liver failure
   - now OG tube so tube feeds
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - resume amiodarone
   - hold anticoagulation as INR elevated
   # ICD firing:  per patient, ICD fired x 2.  EP consulted in ED and
   pacer interrogated, no Vtach noted, patient has been in afib with RVR
   over the weekend.
   - f/u EP consult; will talk with EP about if pacer is catching HRs
   above 100; looks like they are
   - amiodarone as above
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine
   # FEN: IVFs / replete lytes prn / cardiac diet
   # PPX: bowel regimen, no heparin given INR elevation
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2159-10-26**] 06:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Arterial Line - [**2159-10-26**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-27 08:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure and shock
   HPI:
    62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, who presents
   from home with weakness x 10 days found presented with hypotensiion,
   tachycardia, with lactate of 11, glucose of 20, and transaminitis.
   Felt to be septic, c/b CHF
   24 Hour Events:
 ULTRASOUND - At [**2159-10-26**] 11:38 AM
   bedside liver [**Last Name (un) 3475**] u/s
 ARTERIAL LINE - START [**2159-10-26**] 09:19 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Meropenem - [**2159-10-27**] 05:08 AM
   Vancomycin - [**2159-10-27**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 3 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-27**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 92 (76 - 109) bpm
   BP: 84/58(68) {75/56(63) - 87/64(73)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 72 Inch
   CVP: 16 (16 - 44)mmHg
   Total In:
                                                                  4,105 mL
                                                                  1,355 mL
   PO:
                                                                    100 mL
   TF:
                                                                    106 mL
                                                                    217 mL
   IVF:
                                                                  3,799 mL
                                                                  1,057 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    620 mL
   Urine:
                                                                    645 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,460 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 197
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/34/184/24/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 368
   Physical Examination
   General: Altered, A&O x1.
   HEENT: PERRL. OP clear.
   CV: Irregularly, irregular, IV/VI SEM
   Lungs: b/l anterior rhonchi, crackles at the bases
   Abd: Soft, NT, ND.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   123 K/uL
   121 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   45 mg/dL
   96 mEq/L
   129 mEq/L
   32.8 %
   13.8 K/uL
        [image002.jpg]
                            [**2159-10-25**]  04:03 AM
                            [**2159-10-25**]  11:45 AM
                            [**2159-10-25**]  10:39 PM
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
   WBC
   13.2
   15.0
   13.8
   Hct
   32.1
   33.7
   32.8
   Plt
   196
   163
   123
   Cr
   1.7
   1.7
   1.7
   1.9
   1.9
   TCO2
   15
   18
   19
   24
   26
   Glucose
   62
   73
   76
   121
   Other labs: PT / PTT / INR:51.0/57.7/5.6, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10952**], Alk Phos / T Bili:157/9.8,
   Lactic Acid:2.7 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, a/w likely
   septic shock c/b CHF.  .
   1. Shock
 cannot r/o recrudescent sepsis given that wound has not been
   definitively treated.  Prior hypothermia could be c/w ongiong sepsis.
   CXR also shows inc density and question whether there may be LLL
   consolidation/collapse.  With those caveats, his CHF and severe
   valvular disease continue to be the most clearly complicating and
   likely represent a primary etiology for shock.  Yesterday failed trial
   of neosynephrine alone and HR dropped to 72 bpm.  No improvement in
   hemodynamics with this intervention.   Although we have discussed a PA
   line will attempt trial of dobutamine/neosynephrine.
   -Dobutamine/neo as above, follow Uo, CvO2, CVP, and possibly CO via
   Vigi.
   -Vancomycin x 14days, meropenem x2.  If improves may need TEE for
   further to exonerate cardiac valves.
   2. Respiratory failure
 likely [**1-1**] worsening CHF in the setting of
   cardiogenic failure.  Maintained on 50% FiO2, P/F ratio is 368 so no
   indication for low tidal vol vent, particularly in the setting likely
   inc PCWP.
   -inc PEEP
   3. Sepsis-  [**1-1**] MSSA, high grade bacteremia.  Likely source is from
   foot wound.  Continued on vancomycin/meropenem.
   4. CHF
 LVEF20%.
   5. Thrombocytopenia
   6. AG acidosis-
   5. Hyponatremia
 now stable.
   6. Transaminitis
 LFTs stable.  Portal vv thrombosis ruled out, c/w
   hepatic congestion/hepatopathy.
   7. Lactate- partially related to production. Type I and Type II?
   Other issues per Dr. [**Last Name (STitle) 5132**]
s note.
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, I discussed this with Mr. [**Known lastname 10380**]
s wife last
   night.    She has requested that he be no CPR status.
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill.
   ------ Protected Section ------
   Critical Care Attending:
   Patient admitted to MICU with hypotension and respiratory failure, gram
   positive bacteremia (MSSA), acute renal failure,
   Patient remains pressor dependent (phenylephrine and dopamine); didn
   tolerate dobutamine. Urine output a bit better on dopamine.
   On exam, patient intubated and sedated. Chest clear with good air
   movement anteriorally and laterally. Heart sounds soft. No gallop or
   murmur. Abdomen distended. No tenderness or guarding. Capillary refill
   slightly delayed. Extremties warm; 2+ edema of thighs.
   Hypotension probably due to a combination of low SVR from infection and
   inadequate cardiac output due to cardiac disease. On dopamine and
   phenylephrine now. Would add vasopressin. Oyxgenation remains good.
   Urine output marginal. Creat up slightl. CVP remains high.
   Critical Care 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 25**], MD
   on:[**2159-10-27**] 17:16 ------

2159-10-28 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2159-10-28**] 04:05 AM
   - Attempted to transition dopamine to dobutamine in the AM yesterday
   which failed [**1-1**] falling blood pressure
   - Kept on dopmine/NEO combination as had been producing urine w/out
   lasix on this. Added vasopressin in the evening in an effort to wean
   other pressors.
   - PEEP increased to 8 for preload and afterload reduction
   - ECHO with worsening of MR and mild interval improvement of wall mtn
   abnml [likely secondary to sepsis/pressors]
   - High residuals, regaln started
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-27**] 08:00 AM
   Meropenem - [**2159-10-28**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Dopamine - 4.5 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2159-10-27**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-28**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 109 (89 - 109) bpm
   BP: 89/68(76) {84/55(65) - 101/70(80)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 72 Inch
    CVP: 22 (20 - 22)mmHg
   CO/CI (Fick): (8 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  3,080 mL
                                                                    626 mL
   PO:
   TF:
                                                                    584 mL
   IVF:
                                                                  2,416 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    450 mL
   Urine:
                                                                  1,570 mL
                                                                    450 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.52/31/184/22/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 368
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   10.6 g/dL
   126 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   40 mg/dL
   96 mEq/L
   129 mEq/L
   34.6 %
   13.2 K/uL
        [image002.jpg]
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
                            [**2159-10-27**]  10:38 AM
                            [**2159-10-28**]  03:52 AM
                            [**2159-10-28**]  04:09 AM
   WBC
   15.0
   13.8
   13.2
   Hct
   33.7
   32.8
   34.6
   Plt
   163
   123
   152
   Cr
   1.9
   1.9
   1.4
   TCO2
   15
   18
   19
   24
   26
   27
   26
   Glucose
   76
   121
   126
   Other labs: PT / PTT / INR:51.0/57.7/5.6, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10952**], Alk Phos / T Bili:157/9.8,
   Lactic Acid:2.3 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   62 yom with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic Systolic
   CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib on Coumadin,
   Hyperlipidemia who presents from home with weakness x 10 days found to
   have sepsis.
   # Cardiogenic shock: Did not improve with decreased rate suggesting
   that he is very dependent on ionotrophy.
   - continue neosynepherin and dopamine; attempt transition to dobutamine
   - attempt diuresis if stable
   - appreciate cardiology input
   - check lactate/SvO2 prior to changing pressors.
   - consider vigelleo (but Afib and bad tracing) or swan
   .
   # Sepsis/bacterimia:  Presented with MSSA bacteremia.  With 4/4 blood
   culture bottles positive and same organism growing from foot wound.
   Given worsening hypotension, added meropenem for broader coverage.
   - cont Vanco, check level; has pcn allergy and would just like to
   continue vanco despite MSSA growing out
   - meropenem for other foot/pulmonary sources, will attempt 8 day
   coursefrom [**10-26**]
   -- f/u Podiatry consult
   -- f/u Vascular consult
   -- TTE/TEE to determine course
   # Hyponatremia: Hypervolemic, related to heart failure Improving from
   122 to 129, stable over last day since diuresis has leveled off
   - appreciate renal recs
   # Transaminitis:  Unclear etiology at this time but may be related to
   sepsis and mild shock liver as lactate 11.9.  CT done and shows no
   biliary cause.   Hepatology consulted, appreciate recs.  No portal
   thrombosis.  LFTs stable
   - trend LFTs/coags daily
   - restart Amiodarone
   - hold statin for now
   - start lactulose
   # Coagluopathy: Likely a consequence of abx, poor po and liver injury;
   was not on anticoagulation at home
   - repeat dose vit K 3mg
   # ARF:  Likely related to sepsis, Cr stable
   -- inoptropes as above; stable despite worsening heart failure
   -- renal c/s
   -- avoid nephrotoxic medication
   .
   # Hypoglycemia: likely from poor PO intake and liver failure
   - tube feeds and D50 prn
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - amiodarone
   - hold anticoagulation as INR elevated
   .
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine, check TSH/FT4 given h/o
   amiodorone induced hypothyroidism
   ICU Care
   # FEN: IVFs / replete lytes prn / tube feeds
   # PPX: bowel regimen, no heparin given INR elevation, pneumoboots
   # ACCESS:
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Arterial Line - [**2159-10-26**] 09:19 PM
   # CODE:  DNR, intubated, wants to continue with functioning AICD.
   # CONTACT:  with patient/wife
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Arterial Line - [**2159-10-26**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2159-10-28 09:38:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, who presents
   from home with weakness x 10 days found presented with hypotensiion,
   tachycardia, with lactate of 11, glucose of 20, and transaminitis.
   Felt to be septic, c/b CHF
   24 Hour Events:
 BLOOD CULTURED - At [**2159-10-28**] 04:05 AM
   Yesterday failed to respond to dobutamine
                   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Meropenem - [**2159-10-28**] 04:00 AM
   Vancomycin - [**2159-10-28**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Dopamine - 4.5 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2159-10-27**] 08:45 PM
   Famotidine (Pepcid) - [**2159-10-28**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-28**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 117 (89 - 117) bpm
   BP: 74/59(65) {74/55(65) - 101/70(80)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 72 Inch
   CVP: 27 (20 - 27)mmHg
   CO/CI (Fick): (8 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  3,080 mL
                                                                  1,123 mL
   PO:
   TF:
                                                                    584 mL
   IVF:
                                                                  2,416 mL
                                                                  1,063 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                  1,570 mL
   Urine:
                                                                  1,570 mL
                                                                    570 mL
   NG:
                                                                     60 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                   -447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.52/31/184/22/3
   Ve: 7.6 L/min
   PaO2 / FiO2: 368
   Physical Examination
   General: Intubated, sedated.
   HEENT: PERRL. OP clear.
   CV: Irregularly, irregular, IV/VI SEM
   Lungs: b/l anterior rhonchi, crackles at the bases
   Abd: Soft, NT, ND.
   Peripheral Vascular: Warm, non-healing L foot wound.
   Labs / Radiology
   10.6 g/dL
   152 K/uL
   126 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   40 mg/dL
   96 mEq/L
   129 mEq/L
   34.6 %
   13.2 K/uL
        [image002.jpg]
                            [**2159-10-26**]  01:33 AM
                            [**2159-10-26**]  02:29 AM
                            [**2159-10-26**]  02:58 AM
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
                            [**2159-10-27**]  10:38 AM
                            [**2159-10-28**]  03:52 AM
                            [**2159-10-28**]  04:09 AM
   WBC
   15.0
   13.8
   13.2
   Hct
   33.7
   32.8
   34.6
   Plt
   163
   123
   152
   Cr
   1.9
   1.9
   1.4
   TCO2
   15
   18
   19
   24
   26
   27
   26
   Glucose
   76
   121
   126
   Other labs: PT / PTT / INR:51.0/57.7/5.6, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:[**Telephone/Fax (1) 10952**], Alk Phos / T Bili:157/9.8,
   Lactic Acid:2.3 mmol/L, Albumin:3.2 g/dL, LDH:470 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan:
   62 y/o m with history of CAD s/p CABG x 5 in [**2144**], UGIB, Chronic
   Systolic CHF (EF 20%), hx of VT s/p PPM/ICD in [**2144**], Afib, a/w likely
   septic shock c/b CHF.
   1. Shock
 cannot r/o recrudescent sepsis given that wound has not been
   definitively treated.  CXR with new RLL infiltrate, in addition to
   stable LLL consolidation/collapse.  With those caveats, CHF and severe
   valvular disease continue to be complicating.  No improvement in
   hemodynamics with dobutamine or slower heart rates. Although we have
   discussed a PA line given severe TR, and multiple RV wires would be
   high risk. Cortisol OK.
   -Dobutamine/neosynephrine/vasopressin.  Will wean neosynephrine as
   tolerated.
   -Uo, CvO2, CVP, lactate.
   -Vancomycin x 14days, meropenem x2.  If improves may need TEE for
   further to exonerate cardiac valves.
   2. Respiratory failure
 likely [**1-1**] worsening CHF in the setting of
   cardiogenic failure.  Now with new RLL infiltrate, which may be [**1-1**] to
   edema but fever curve slightly increased (although still technically
   afebrile).  Maintained on 50% FiO2
   -inc PEEP
   3. Sepsis-  [**1-1**] MSSA, high grade bacteremia.  Likely source is from
   foot wound.  Continued on vancomycin/meropenem.   Hemodynamics as
   above.
   4. CHF
 LVEF20%, but functionally less
   5. Thrombocytopenia
   6. AG acidosis-
   5. Hyponatremia
 now stable.
   6. Transaminitis
 LFTs stable.  Portal vv thrombosis ruled out, c/w
   hepatic congestion/hepatopathy.
   7. Lactate- partially related to production. Type I and Type II?
   Other issues per Dr. [**First Name (STitle) 460**]
 note.
 HYPOGLYCEMIA
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 CARDIAC DYSRHYTHMIA OTHER
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2159-10-24**] 04:38 AM
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Daily wake up.
   Code status: DNR, I discussed this with Mr. [**Known lastname 10380**]
s wife last
   night.    She has requested that he be no CPR status.
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill.

2159-10-29 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tachycardic and dropping BPs in the AM
   - febrile to 102 over most of day
   - urine output decreased significantly after the morning hemodynamic
   changes
   - sent for c.diff and empirically added cipro and flagyl; adjust cipro
   dosing this morning for changing renal function
   - LFTs rising, repeated US which showed wet read:
   1. Very limited study from obscuration of a very distended stomach.
   2. Limited evaluation of the GB.
   3. No intrahepatic biliary ductal dilatation.
   - discussed situation with wife and decided on no escalation of care
   - maintained BPs in 80s/60s and HRs in 110s-120s throughout night
   - got 2 doses of tylenol (in spite of his LFTs) and cooling blanket
   without change in hemodynamics
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-28**] 08:00 AM
   Metronidazole - [**2159-10-28**] 07:24 PM
   Meropenem - [**2159-10-29**] 04:00 AM
   Ciprofloxacin - [**2159-10-29**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Dopamine - 5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-10-28**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.9
C (102.1
   HR: 118 (108 - 123) bpm
   BP: 77/60(67) {74/59(65) - 87/72(78)} mmHg
   RR: 16 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 72 Inch
    CVP: 19 (18 - 27)mmHg
   Mixed Venous O2% Sat: 57 - 57
   Total In:
                                                                  3,050 mL
                                                                  1,093 mL
   PO:
   TF:
                                                                    215 mL
   IVF:
                                                                  2,750 mL
                                                                    879 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                     96 mL
   Urine:
                                                                    720 mL
                                                                     96 mL
   NG:
                                                                  1,550 mL
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 43.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/38/152/22/-1
   Ve: 7.3 L/min
   PaO2 / FiO2: 304
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   10.4 g/dL
   118 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.8 mEq/L
   47 mg/dL
   97 mEq/L
   128 mEq/L
   35.1 %
   13.1 K/uL
        [image002.jpg]
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
                            [**2159-10-27**]  10:38 AM
                            [**2159-10-28**]  03:52 AM
                            [**2159-10-28**]  04:09 AM
                            [**2159-10-28**]  05:10 PM
                            [**2159-10-29**]  03:04 AM
                            [**2159-10-29**]  03:09 AM
   WBC
   13.8
   13.2
   13.1
   Hct
   32.8
   34.6
   35.1
   Plt
   123
   152
   148
   Cr
   1.9
   1.4
   2.1
   2.4
   TCO2
   19
   24
   26
   27
   26
   23
   Glucose
   121
   126
   125
   118
   Other labs: PT / PTT / INR:33.1/51.3/3.4, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:349/595, Alk Phos / T Bili:144/15.2,
   Lactic Acid:3.0 mmol/L, Albumin:2.5 g/dL, LDH:450 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   62 yom with sCHF now with cardiogenic/septic shock
   # Cardiogenic shock: Appears to be the primary driver of his shock
   given hepatic congestion/bounding JVP. Unable to switch to dobutamine
   from dopamine yesterday.  New TTE did not show blown valve or
   significant worsening. Falling Cr may indicate improved forward flow.
   - continue neosynepherin and dopamine, vasopressin; attempt to wean
   neosynephrine
   - attempt diuresis if stable
   - appreciate cardiology input
   - follow lactate
   .
   # Sepsis/bacterimia:  Presented with MSSA bacteremia.  Blood cultures
   negative since [**10-22**]. Afebrile but temps trending up. Low grade temps
   could be [**1-1**] several different etiologies, likely has some hepatic
   necrosis given elevated LFTs. Will also consider acalculous
   cholecystitis given rising bili.
   - cont Vanco, check level;
   - meropenem for other foot/pulmonary sources, will attempt 8 day course
   from [**10-26**]
   -- f/u Podiatry consult
   -- f/u Vascular consult
   # Hyponatremia: Hypervolemic, related to heart failure Improving from
   122 to 129, stable over last day since diuresis has leveled off
   - appreciate renal recs
   - Recheck lytes tonight
   # Transaminitis:  Shock liver likely contributing with hepatic venous
   congestion given 4+ TR and bounding JVP. Appears to be having worsening
   synthetic function with rising bilirubin. Will also check U/s for
   possible obstruction.
   - RUQ U/S
   - trend LFTs/coags daily
   - restart Amiodarone
   - hold statin for now
   # Coagluopathy: Likely a consequence of abx, poor po and liver injury;
   was not on anticoagulation at home
   - IV vit K
   # ARF: Improving. Likely related to sepsis
   -- inoptropes as above; stable despite worsening heart failure
   -- renal c/s
   -- avoid nephrotoxic medication
   .
   # Hypoglycemia: likely from poor PO intake and liver failure
   - tube feeds and D50 prn
   # Afib with RVR: Currently, patient is in Afib with normal rate s/p
   fluids.  Currently not on Coumadin, but INR elevated, likely [**1-1**] liver
   dysfunction.
   - amiodarone
   - hold anticoagulation as INR elevated
   .
   # CAD s/p CABG:  No signs of MI at this time, CK flat with negative
   troponin.  Not on BB, ACE-I as outpatient.
   - not on ASA at home, hold ASA given INR elevation
   - hold Statin give elevated LFTs
   # Depression: cont buproprion, citalopram
   # Hypothyroidism: cont levothyroxine, check TSH/FT4 given h/o
   amiodorone induced hypothyroidism
   ICU Care
   # FEN: IVFs / replete lytes prn / tube feeds
   # PPX: bowel regimen, no heparin given INR elevation, pneumoboots
   # ACCESS:
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Arterial Line - [**2159-10-26**] 09:19 PM
   # CODE:  DNR, intubated, wants to continue with functioning AICD.
   # CONTACT:  with patient/wife
   # DISPO: ICU

2159-10-29 10:49:00 Physician Attending Progress Note
HPI:
    62yoM with CHF, biventricular pacer, and here with septic shock.
   24 Hour Events:
   Persistent fever, increased tachycardia, hypotension, and decreased UOP
   overnight.  Family meeting yesterday with no escalation of care.
   Allergies:
   Penicillins
   Anaphylaxis;
   Amiodarone
   hypothyroidism;
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-28**] 08:00 AM
   Meropenem - [**2159-10-29**] 04:00 AM
   Ciprofloxacin - [**2159-10-29**] 06:00 AM
   Metronidazole - [**2159-10-29**] 08:55 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 5 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pepcid
   Other medications:
   Colace
   Wellbutrin
   Citalopram
   Digoxin
   Synthroid
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-29**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38
C (100.4
   HR: 109 (109 - 123) bpm
   BP: 80/62(69) {74/59(65) - 87/72(78)} mmHg
   RR: 14 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 72 Inch
   CVP: 18 (18 - 26)mmHg
   Mixed Venous O2% Sat: 57 - 57
   Total In:
                                                                  3,050 mL
                                                                  1,481 mL
   PO:
   TF:
                                                                    263 mL
   IVF:
                                                                  2,750 mL
                                                                  1,218 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    136 mL
   Urine:
                                                                    720 mL
                                                                    136 mL
   NG:
                                                                  1,550 mL
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                  1,345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 44.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/38/152/22/-1
   Ve: 7.6 L/min
   PaO2 / FiO2: 304
   Physical Examination
   Gen: Sedated, intubated, RASS -4
   CV:  Tachy/IR
   Chest: Decreased BS at right base, clear anterior fields
   Abd: s/nt/nd
   Ext:  cold extremities, anasarca
   Labs / Radiology
   10.4 g/dL
   148 K/uL
   118 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.8 mEq/L
   47 mg/dL
   97 mEq/L
   128 mEq/L
   35.1 %
   13.1 K/uL
        [image002.jpg]
                            [**2159-10-26**]  04:20 AM
                            [**2159-10-26**]  10:08 PM
                            [**2159-10-27**]  04:26 AM
                            [**2159-10-27**]  04:40 AM
                            [**2159-10-27**]  10:38 AM
                            [**2159-10-28**]  03:52 AM
                            [**2159-10-28**]  04:09 AM
                            [**2159-10-28**]  05:10 PM
                            [**2159-10-29**]  03:04 AM
                            [**2159-10-29**]  03:09 AM
   WBC
   13.8
   13.2
   13.1
   Hct
   32.8
   34.6
   35.1
   Plt
   123
   152
   148
   Cr
   1.9
   1.4
   2.1
   2.4
   TCO2
   19
   24
   26
   27
   26
   23
   Glucose
   121
   126
   125
   118
   Other labs: PT / PTT / INR:33.1/51.3/3.4, CK / CKMB /
   Troponin-T:95//0.06, ALT / AST:349/595, Alk Phos / T Bili:144/15.2,
   Lactic Acid:3.0 mmol/L, Albumin:2.5 g/dL, LDH:450 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   62yoM with known systolic CHF; shock from mixed cardiogenic and septic
   shock
   1.       Severe Septic Shock:  Likely source foot versus pulmonary
   infection
   -  Vancomycin/meropenem/flagyl/cipro
   - Currently on max dopamine/neo/vasopressin.  Family desires no
   escalation of care.
   2.       Cardiogenic: ScvO2 50-55%.  Underlying poor EF.
    - Limited ability to diurese, though suspect volume overload as a
   contributing factor with overdilation of LV and poor SV/CO
   3.       Respiratory Failure:
   4.       Renal Failure:  Cr increasing, remains oliguric.  Suspect
   decreased CO in setting of CHF.
   5.       Atrial Fibrillation:  Amiodarone
   6.       Goals of care:
   Discussed with patient
s wife regarding his continued decline and
   pressor-dependence as well as grim outlook regarding potential for
   recovery and underlying comorbidities.  She would like to move towards
   CMO status today, will contact cardiology regarding deactivation of
   ICD, extubate, and remove vasopressors.
   ICU Care
   Nutrition: Holding tube feeds for high residuals
   Glycemic Control:  Stable
   Lines:
   Multi Lumen - [**2159-10-24**] 07:02 PM
   Arterial Line - [**2159-10-26**] 09:19 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: H2- blocker
   VAP: HOB/peridex/mouth care
   Communication:  Comments:   Discuss with family regarding goals of
   care, given outlook with refractory shock on multiple pressors,
   underlying cardiac comorbidities, favor discussion regarding
   re-evaluating current measures and move towards CMO status.
   Code status: No escalation of care/DNR
   Disposition :  Critically-ill
   Total time spent:  35 minutes CCT